US04563459
A suspension of 2.81 g of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid and 5.2 g of N-(2-hydroxyethyl)-piperazine in 25 ml of dimethylsulphoxide is heated at 135°-140° C. for 2 hours. The solvent is distilled off under a fine vacuum, the residue is boiled up with 20 ml of water, the mixture is left to stand overnight at room temperature and the precipitate is filtered off with suction, while cooling with ice, washed with water and dried over calcium chloride in vacuo at 80° C. 2.1 g of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[4-(2-hydroxyethyl)-1-piperazinyl]-3-quinolinecarboxylic acid of decomposition point 237°-239° C. are obtained.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.81 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | N-(2-hydroxyethyl)-piperazine | 5.2 g | OCCN1CCNCC1 | C6H14N2O
solvent | dimethylsulphoxide | 25 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[4-(2-hydroxyethyl)-1-piperazinyl]-3-quinolinecarboxylic acid | 2.1 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CCO)F)=O)C(=O)O | C19H22FN3O4
